US07141585B2
O-(3,5-Dibromophenyl) diethylthiocarbamate
A solution of 3,5-dibromophenol (prepared according to Recl. Trav. Chim. Pays-Bas. 1908, 27, 30) (10.08 g, 40 mmol) and diethylthiocarbamyl chloride (7.9 g, 52 mmol) in 1-methyl-2-pyrrolidinone (80 ml) was cooled to 0° C. under an atmosphere of nitrogen. Sodium hydride (60% dispersion in mineral oil, 1.92 g, 48 mmol) was added portionwise with stirring. The mixture was allowed to warm to 20° C. and stirred under nitrogen for two hours. The mixture was partitioned between diethyl ether (250 ml) and water (350 ml) and the aqueous layer was further extracted with diethyl ether (250 ml then 100 ml). The organic layers were combined, washed with water (150 ml) and brine (150 ml), dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave a yellow solid. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:pentane (1:1, by volume) to provide the title compound (13.4 g) as a white solid, m.p. 72–74° C.

reactant | 3,5-dibromophenol | 40 mmol, 10.08 g | BrC=1C=C(C=C(C1)Br)O | C6H4Br2O
reactant | diethylthiocarbamyl chloride | 52 mmol, 7.9 g | C(C)N(C(=S)Cl)CC | C5H10ClNS
reactant | Sodium hydride | 48 mmol, 1.92 g | [H-].[Na+]
solvent | 1-methyl-2-pyrrolidinone | 80 ml | CN1C(CCC1)=O | C5H9NO
product | O-(3,5-Dibromophenyl) diethylthiocarbamate | 13.4 g | C(C)N(C(OC1=CC(=CC(=C1)Br)Br)=S)CC | C11H13Br2NOS
